US04766121
3,5-Dichloro-4-(4'-methoxy-3'-(6-methoxy-3-pyridylmethyl)phenylthio)-nitrobenzene (28.60 g) and iron powder (35 g) were stirred with heating in glacial acetic acid (250 ml) at 90° for 40 minutes. The mixture was cooled, filtered, then evaporated to dryness and the resulting gum redissolved in chloroform, washed with water (twice), dried over anhydrous magnesium sulphate and evaporated to give the crude product as a light brown gum (27.17 g). This gum was chromatographed on silica gel using ethyl acetate-petroleum spirit (60°-80°, gradient elution) as eluant. 3,5-Dichloro-4-(4'-methoxy-3'-(6-methoxy-3-pyridylmethyl)phenylthio) aniline was isolated as a pale yellow solid (21.29 g, 79%), m.p. 114°-115°.

reactant | 3,5-Dichloro-4-(4'-methoxy-3'-(6-methoxy-3-pyridylmethyl)phenylthio)-nitrobenzene | 28.60 g | ClC=1C=C(C=C(C1SC1=CC(=C(C=C1)OC)CC=1C=NC(=CC1)OC)Cl)[N+](=O)[O-] | C20H16Cl2N2O4S
solvent | acetic acid | 250 ml | C(C)(=O)O | C2H4O2
catalyst | iron | 35 g | [Fe] | Fe
product | 3,5-Dichloro-4-(4'-methoxy-3'-(6-methoxy-3-pyridylmethyl)phenylthio) aniline | ClC=1C=C(N)C=C(C1SC1=CC(=C(C=C1)OC)CC=1C=NC(=CC1)OC)Cl | C20H18Cl2N2O2S
